US07151105B2
Step 3: 4-Bromo-5-methoxy-2-ethyl-phenol(
A solution of tetrabutyl ammonium tribromide (38.10 g, 79 mmol) in CHCl3 (100 mL) was added to a stirred solution of 5-methoxy-2-ethyl-phenol (12.0 g, 79 mmol) dissolved in CHCl3 (90 mL). The reaction mixture was stirred for 4hrs and then quenched with 5% solution of sodium thiosulfate (90 mL). The biphasic mixture was stirred for 30 mins and then the layers were separated. The organic layer was washed with 1 N HCl, brine, dried over Na2SO4 and concentrated to a red oil. Purification by flash column chromatography (0% to 60% EtOAc in hexanes) gave the product as an oil (19 g). LCMS : APCI−VE=230 M/E.

reactant | tetrabutyl ammonium tribromide | 79 mmol, 38.10 g | [Br-].[Br-].[Br-].C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 5-methoxy-2-ethyl-phenol | 79 mmol, 12.0 g | COC=1C=CC(=C(C1)O)CC | C9H12O2
solvent | CHCl3 | 100 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 90 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-Bromo-5-methoxy-2-ethyl-phenol | 19 g | BrC1=CC(=C(C=C1OC)O)CC | C9H11BrO2
